US07019007B2
Step A: Preparation of (±)-trans-4-nitro-benzenesulfonic Acid 2-azido-cyclopentyl ester
A solution of (±)-trans-2-azido-cyclopentanol (1.27 g, 10.0 mmol) (Zhang, Z. da; Scheffold, R. Helv. Chim. Acta 1993, 76, 2602) in CH2Cl2 (14 mL) at 0° C. was treated successively with pyridine (0.88 mL, 10.9 mmol) and 4-nitro-benzenesulfonyl chloride (2.22 g, 10.0 mmol) and allowed to warm to room temperature slowly. The reaction was stirred for 4 d, during which additional pyridine (0.9 mL, 11 mmol) and 4-nitro-benzenesulfonic acid (2.2 g, 10 mmol) was added, and partitioned between CH2Cl2 and 1 N HCl. The aqueous phase was extracted with CH2Cl2 and the extracts were washed with saturated NaHCO3, dried and concentrated. Chromatography of the residue with 10:1–4:1 hexanes:EtOAc gave the product (2.63 g, 84%) as a yellow oil: 1H NMR δ 1.61–1.90 (m, 4H), 2.00–2.16 (m, 2H), 3.96 (m, 1H), 4.72 (m, 1H), 8.14 (m, 2H), 8.43 (m, 2H).

reactant | (±)-trans-2-azido-cyclopentanol | 10.0 mmol, 1.27 g | N(=[N+]=[N-])[C@H]1[C@@H](CCC1)O | C5H9N3O
reactant | pyridine | 10.9 mmol, 0.88 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitro-benzenesulfonyl chloride | 10.0 mmol, 2.22 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 11 mmol, 0.9 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitro-benzenesulfonic acid | 10 mmol, 2.2 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)O | C6H5NO5S
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | (±)-trans-4-nitro-benzenesulfonic Acid 2-azido-cyclopentyl ester | 2.63 g, 84% | N(=[N+]=[N-])[C@H]1[C@@H](CCC1)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H12N4O5S
